US05095038
To a mixture of 7-cyclopentylacetamido-1-tetralone (1.02 g) in ethereal HCl (0.2 ml) and methylene chloride (20 ml) was added a solution of bromine (0.19 ml) in a mixture of ethereal HCl (10 drops) and carbon tetrachloride (1 ml). The reaction was stirred for 3 h and ethyl acetate (60 ml) was added. The mixture was washed (saturated sodium bicarbonate, water, brine), dried (MgSO4), and evaporated. The residue was recrystallized from methylene chloride and petroleum ether to give 2-bromo-7-cyclopentylacetamido-1-tetralone (1.23 g, 95%) as a colorless solid; mp 162.5°-164.0° C.

reactant | 7-cyclopentylacetamido-1-tetralone | 1.02 g | C1(CCCC1)CC(=O)NC1=CC=C2CCCC(C2=C1)=O | C17H21NO2
reactant | bromine | 0.19 ml | BrBr | Br2
reactant | carbon tetrachloride | 1 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | HCl | 0.2 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | HCl | 10 drops | Cl | ClH
product | 2-bromo-7-cyclopentylacetamido-1-tetralone | 1.23 g, 95% | BrC1C(C2=CC(=CC=C2CC1)NC(CC1CCCC1)=O)=O | C17H20BrNO2
